US07199147B2
Under nitrogen, N-methyl-N-[cis-3-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl]-N-phenylamine (89 mg, 0.212 mmol) was dissolved in isopropyl alcohol (4 ml), followed by adding thereto a 4N-hydrochloric acid/1,4-dioxane solution (4 ml), and the resulting mixture was stirred at room temperature for 22 hours. The solvent was distilled off under reduced pressure, and the residue was neutralized with aqueous ammonia and concentrated to dryness under reduced pressure. The resulting concentration residue was purified by a silica gel column chromatography (eluent: n-hexane/ethyl acetate=3/1) to obtain N-methyl-N-[cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl]-N-phenylamine (62 mg, yield 87.1%) as a white amorphous substance.

reactant | N-methyl-N-[cis-3-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl]-N-phenylamine | 0.212 mmol, 89 mg | CN(C1=CC=CC=C1)[C@@H]1C[C@@H](CCC1)OC=1C(=C2C=NN(C2=CC1)C1OCCCC1)C | C26H33N3O2
reactant | hydrochloric acid 1,4-dioxane | 4 ml | Cl.O1CCOCC1
solvent | isopropyl alcohol | 4 ml | C(C)(C)O | C3H8O
product | N-methyl-N-[cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl]-N-phenylamine | 62 mg, yield 87.1% | CN(C1=CC=CC=C1)[C@@H]1C[C@@H](CCC1)OC=1C(=C2C=NNC2=CC1)C | C21H25N3O
